US04730005
(a) 3-Dodecylthiophene
To a freshly prepared dodecylmagnesium bromide (from 45 mmoles of dodecyl bromide and 45 mmoles of magnesium) in anhydrous diethyl ether (100 ml) was added 3-bromothiophene (45 mmoles) in diethyl ether (25 ml) at ambient temperature under argon and then bis-(1,2-diphenylphosphino)ethane nickel (II) chloride (0.25 g) was added. The reaction mixture was stirred overnight at ambient temperature and then hydrolyzed with ice and saturated aqueous ammonium chloride. The aqueous layer was extracted with diethyl ether (3×25 ml) and the organic phases were combined, washed with water (3×25 ml), dried over anhydrous magnesium sulfate and concentrated in vacuo. The crude product was purified by distillation in vacuo and then flash chromatography to afford the desired product.

reactant | dodecylmagnesium bromide | 45 mmoles | C(CCCCCCCCCCC)[Mg]Br
reactant | 3-bromothiophene | 45 mmoles | BrC1=CSC=C1 | C4H3BrS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 3-Dodecylthiophene | C(CCCCCCCCCCC)C1=CSC=C1 | C16H28S
